US05614530
A mixture of 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline (1.0 g, 0.0043 mol), DMSO (3 mL) and 2-aminomethylpyridine (0.9 mL, 0.0086 mol) was heated at 110° C. overnight. The reaction mixture was cooled and then was poured into water. The mixture was extracted with CH2Cl2 and then the CH2Cl2 layer was evaporated. The residue was purified by column chromatography on silica gel eluting with 20% hexane/ethyl acetate to afford the product as the free base. The free base was then dissolved in methanol and was treated with methanesulfonic acid. The methanol was evaporated and the residue was recrystallized from 2-propanol/ether and dried in vacuo to afford 1.0 g of 1-ethyl-N-(2-pyridinylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine.2CH3SO3H, as a yellow solid m.p. 259°-260° C.

reactant | 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline | 0.0043 mol, 1.0 g | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2Cl | C12H10ClN3
reactant | DMSO | 3 mL | CS(=O)C | C2H6OS
reactant | 2-aminomethylpyridine | 0.0086 mol, 0.9 mL | NCC1=NC=CC=C1 | C6H8N2
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 1-ethyl-N-(2-pyridinylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 1.0 g | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2NCC2=NC=CC=C2 | C18H17N5
